US06673799B1
t-Butyl 4-(4-cyano-3-trifluoromethylphenyl)-3-methylpiperazine-1-carboxylate
A 4.46 g portion of t-butyl 3-methylpiperazine-1-carboxylate synthesized in Reference Example 2, 6.74 g of 4-fluoro-2-trifluoromethylbenzonitrile and 7.76 ml of diisopropylethylamine were stirred in 50 ml of DMF at 100° C. for 2 days. The reaction solution was diluted with water and extracted with ethyl acetate, the organic layer was washed and dried and then the solvent was evaporated under reduced pressure. The residue was subjected to a silica gel column chromatography and eluted with hexane-ethyl acetate (3:1, v/v) to obtain 5.6 g of the title compound as white crystals.

reactant | t-butyl 3-methylpiperazine-1-carboxylate | CC1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 4-fluoro-2-trifluoromethylbenzonitrile | 6.74 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | diisopropylethylamine | 7.76 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | t-Butyl 4-(4-cyano-3-trifluoromethylphenyl)-3-methylpiperazine-1-carboxylate | 5.6 g | C(#N)C1=C(C=C(C=C1)N1C(CN(CC1)C(=O)OC(C)(C)C)C)C(F)(F)F | C18H22F3N3O2
